US06841693B1
100 ml of methanol, 6.53 g of 2,6-diacetylpyridine (molecular weight 163.18; 40 mmols) and 21.4 g of 2-methylaniline (molecular weight 107.15; 200 mmols) were put into a 300 ml flask, and thoroughly stirred to prepare a homogeneous mixture. 0.6 ml of formic acid was added to this, and further the mixture was stirred at room temperature for 4 hours to make the compounds reacted completely. The resulting yellow crystal was taken out through filtration, washed with methanol, and dried under reduced pressure to obtain 10.3 g of 2,6-diacetylpyridine-di(2-methylphenyl)imine (molecular weight 341.45; 30.3 mmols, yield 76%) Next, 10 ml of tetrahydrofuran, 20 ml of methanol, 5.1 g (15 mmols) of 2,6-diacetylpyridine-di(2-methylphenyl)imine and 1.96 g of 2,7-diaminofluorenone (molecular weight 196.25; 10 mmols) were put into a 100 ml flask, and thoroughly stirred to prepare a homogeneous mixture. 0.6 ml of formic acid was added to this, and further the mixture was stirred at room temperature for 4 hours to make the compounds reacted completely. The resulting yellow crystal was taken out through filtration, washed with methanol, and dried under reduced pressure. Its NMR spectrum was assigned as the intended ligand (molecular weight 664.84; 2.65 g, 4.0 mmols, yield 53%).

reactant | 2,6-diacetylpyridine | 40 mmols, 6.53 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | 2-methylaniline | 200 mmols, 21.4 g | CC1=C(N)C=CC=C1 | C7H9N
reactant | formic acid | 0.6 ml | C(=O)O | CH2O2
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
product | 2,7-diaminofluorenone | 10 mmols, 1.96 g, yield 53% | NC=1C(C2=CC3=CC(=CC=C3C2=CC1)N)=O | C13H10N2O
